* BALUN
*
* A bidirectional balanced-unbalanced converter.
* Maps between the unbalanced signals 'd=1' and 'c=2' and the balanced signals 'p=3' and 'n=4'.
*
* K. Kundert, “A test bench for differential circuits,” The Designer’s Guide Com-
* munity, http://www.designers-guide.org/, Version 1d, 12 September 2006.
.subckt balun (1 2 3 4)

* Ideal transformer for the positive input
E1 5 2 1 0 0.5
V1 3 5
F1 1 0 V1 -0.5
R1 1 0 1T

* Ideal transformer for the negative input
E2 6 4 1 0 0.5
V2 2 7
F2 1 0 V2 -0.5
R2 7 6 1u

.ends balun
