* Loop gain simulation for fully differential Howland VCCS
R3 outp N001 10k
R5 N003 outp 250
C7 N002 N003 {CFB}
RL outp outn {RLOAD}
R9 N003 N002 10250
R36 outn N002 10k
R38 outn N011 250
C10 N011 N001 {CFB}
R40 N011 N001 10250
V3 P001 0 15
V7 N005 0 -15
V8 P002 0 15
V9 N012 0 -15
V2 Vindiff 0 0.25
E3 Vinpos 0 Vindiff 0 .5
E4 Vinneg 0 Vindiff 0 -.5
XU3 N006 N010 N004 N009 balun
XU4 N008 N010 N003 N011 balun
VIF N007 N006 0
VII N007 N008 0
I1 0 N007 AC 1.
R1 outp2 N013 10k
R2 N015 outp2 250
C1 N014 N015 {CFB}
RL1 outp2 outn2 {RLOAD}
R4 N015 N014 10250
R6 outn2 N014 10k
R7 outn2 N020 250
C2 N020 N013 {CFB}
R8 N020 N013 10250
V1 P003 0 15
V4 N017 0 -15
V5 P004 0 15
V6 N021 0 -15
V10 Vindiff2 0 0.25
E1 Vinpos2 0 Vindiff2 0 .5
E2 Vinneg2 0 Vindiff2 0 -.5
XU7 VFM N019 N016 N018 balun
XU8 VIM N019 N015 N020 balun
V11 VIM VFM AC 1
C3 outp2a outn2a {CLOAD}
R112 outp2 outp2a {ROUTSERIES}
R1122 outn2 outn2a {ROUTSERIES}
C4 outpa outna {CLOAD}
R111 outp outpa {ROUTSERIES}
R1111 outn outna {ROUTSERIES}

* OPAMPMOD AV={AOL} RO={ROUT} RIN={RIN} CIN={CIN} FP1={FP1} FP2={FP2} FP3={FP3}
XU1 Vinpos2 N014 P003 N017 N016 OPAMPMOD AV={AOL} RO={ROUT} RIN={RIN} CIN={CIN} FP1={FP1} FP2={FP2} FP3={FP3}
XU2 Vinneg2 N013 P004 N021 N018 OPAMPMOD AV={AOL} RO={ROUT} RIN={RIN} CIN={CIN} FP1={FP1} FP2={FP2} FP3={FP3}
XU5 Vinpos N002 P001 N005 N004 OPAMPMOD AV={AOL} RO={ROUT} RIN={RIN} CIN={CIN} FP1={FP1} FP2={FP2} FP3={FP3}
XU6 Vinneg N001 P002 N012 N009 OPAMPMOD AV={AOL} RO={ROUT} RIN={RIN} CIN={CIN} FP1={FP1} FP2={FP2} FP3={FP3}

* CIRCUIT PARAMETERS
.param RLOAD NaN
.param CLOAD NaN
.param ROUTSERIES 1E-6
.param CFB NaN

* OP-AMP PARAMETERS
.param RIN 100Meg
.param CIN 10p
.param ROUT 1
.param AOL 1Meg
.param GBW 10Meg
.param FP1 {GBW / SQRT((AOL / 1.413)**2 - 1)}
.param FP2 {GBW}
.param FP3 {100*GBW}

* SIMULATION REQUEST
.ac oct 40 1 100Meg
;.op
;tran 0 10e-6 0 1e-9
;noise V(outp)-V(outn) V2 oct 100 100 10E6

* SIMULATION OPTIONS
.OPTIONS numdgt=15
.OPTIONS measdgt=15
*.OPTIONS Gmin=1e-18
*.OPTIONS Abstol=1e-18
*.OPTIONS Reltol=1e-18
*.OPTIONS vntol=1e-18
*.options plotwinsize=0
*.options itl1=1000
*.options itl4=1000
* .OPTIONS method=gear
* .options maxord=1

.lib "c:\sim\op_amp_model.net"
.lib "c:\sim\balun.net"
.lib LTC.lib

.end
	