* Loop gain simulation for single-ended Howland VCCS
V1112 N011 0 15
R2 N012 Vinneg2 10250
R5 N015 N014 10k
R6 N014 Vinpos2 10250
R7 VIM N015 250
R8 VIM N013 250
R9 N013 N012 10k
V2213 N017 0 -15
RL1 N015 0 {RLOAD}
C7 VIM N012 {CFB}
VE55 Vindiff2 0 0.25
E3 Vinneg2 0 Vindiff2 0 -.5
E4 Vinpos2 0 Vindiff2 0 .5
C1 N015 0 {CLOAD}
V2 VIM VFM AC 1
V4441 N001 0 15
R1 N005 Vinneg 10250
R3 N008 N007 10k
R4 N007 Vinpos 10250
R11 N004 N008 250
R12 N004 N006 250
C2 N004 N005 {CFB}
R13 N006 N005 10k
V6179 N010 0 -15
RL2 N008 0 {RLOAD}
C3 N008 0 {CLOAD}
V176 Vindiff 0 0.25
E1 Vinneg 0 Vindiff 0 -.5
E2 Vinpos 0 Vindiff 0 .5

XU1 N014 N012 N011 N017 VFM OPAMPMOD AV={AOL} RO={ROUT} RIN={RIN} CIN={CIN} FP1={FP1} FP2={FP2} FP3={FP3}
XU2 N007 N005 N001 N010 N002 OPAMPMOD AV={AOL} RO={ROUT} RIN={RIN} CIN={CIN} FP1={FP1} FP2={FP2} FP3={FP3}

* probe elements for determining loop gain
I1 0 N003 AC 1
VIF N003 N002 0
VII N003 N004 0

* CIRCUIT PARAMETERS
.param RLOAD NaN
.param CLOAD NaN
.param CFB NaN

* OP-AMP PARAMETERS
.param RIN 100Meg
.param CIN 10p
.param ROUT 10
.param AOL 1Meg
.param GBW 10Meg
.param FP1 {GBW / SQRT((AOL / 1.413)**2 - 1)}
.param FP2 {GBW}
.param FP3 {100*GBW}

* SIMULATION REQUEST
.ac oct 40 1 100Meg
;.op
;tran 0 10e-6 0 1e-9
;noise V(outp)-V(outn) V2 oct 100 100 10E6

* SIMULATION OPTIONS
.OPTIONS numdgt=15
.OPTIONS measdgt=15
*.OPTIONS Gmin=1e-18
*.OPTIONS Abstol=1e-18
*.OPTIONS Reltol=1e-18
*.OPTIONS vntol=1e-18
*.options plotwinsize=0
*.options itl1=1000
*.options itl4=1000
* .OPTIONS method=gear
* .options maxord=1

.lib "c:\sim\op_amp_model.net"
.lib LTC.lib

.end
